** sch_path: /foss/design/ldo/lod_xxx_1_cascode.sch
.lib /foss/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /foss/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

**.subckt lod_xxx_1_cascode
V9 vp GND 0.2
V7 vss GND 0
C1 vx inp 20p m=1
XM32 inp reset vx vx sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
V22 reset GND PULSE(0 1.8 0 10p 10p 40n 256.04u)
I1 net1 GND 20u
x3 vdd net1 vx vp inp GND opamp_singleslope_wcapnew
I0 net2 GND 10u
x7 vdd inp ck outp inn outn net2 GND comparator_ss_h
V8 ck GND PULSE(0 1.8 0 10p 10p .5u 1u)
V23 inn GND 1
V3 in+ GND 1.2
V2 GND net3 1
R1 net3 vx 12.7Meg m=1
R2 net8 net9 15k m=1
I5 net11 GND 15u
V1 vdd3v3 GND 3.3
R4 net12 net7 10k m=1
XM42 net9 net8 net10 GND sky130_fd_pr__nfet_01v8 L=0.5 W=11 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM43 net10 net9 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=11 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM44 net7 net8 net5 GND sky130_fd_pr__nfet_01v8 L=0.5 W=24 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM45 net15 net8 net6 GND sky130_fd_pr__nfet_01v8 L=0.5 W=24 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM46 net5 net9 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=48 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM47 net6 net9 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=48 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM48 net8 net11 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM49 net11 net11 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM50 net4 net11 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM51 net6 in+ net4 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM52 net5 n5 net4 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM53 net13 net12 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM54 net12 net7 net13 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM55 net14 net12 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM56 net15 net7 net14 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R5 vout_s1 n5 120k m=1
R6 n5 GND 120k m=1
XM57 vout_s1 n1 vdd3v3 vdd3v3 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=30 m=30
R8 net20 net21 15k m=1
I6 net23 GND 15u
R9 net25 net19 10k m=1
XM58 net21 net20 net22 GND sky130_fd_pr__nfet_01v8 L=0.5 W=11 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM59 net22 net21 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=11 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM60 net19 net20 net17 GND sky130_fd_pr__nfet_01v8 L=0.5 W=12 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM61 net28 net20 net18 GND sky130_fd_pr__nfet_01v8 L=0.5 W=12 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM62 net17 net21 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=24 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM63 net18 net21 GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=24 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM64 net20 net23 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM65 net23 net23 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM66 net16 net23 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=12 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM67 net18 in+ net16 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM68 net17 nx net16 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10
XM69 net26 net25 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM70 net25 net19 net26 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM71 net27 net25 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM72 net28 net19 net27 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R10 net29 nx 60k m=1
R11 nx GND 120k m=1
XM73 net29 n11 net24 net24 sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=30 m=30
C5 net30 net29 8p m=1
V4 vdd net29 0
C6 net29 GND 50p m=1
V5 net24 vout_s1 0
C3 vout_s1 net31 10p m=1
V10 net31 net15 0
V6 n1 net15 0
V11 n11 net28 0
V12 net30 net28 0
C2 vout_s1 GND 50p m=1
**** begin user architecture code



.model switch2 sw(Ron=1n Vt=0.9 Roff=10G)
.option method = Gear
*.param Wref= 0.36
.param a0=0
.param a1=0
.param a2=1.8
.param a3=0
.param a4=1.8
*.ic v(inp)=0.2
*.ic v(vx)=0


.control
set color0=white
save all

tran 10u 260u
plot inp inn outp outn
plot inp_neg inn outp_neg outn_neg
let i_1v8 = i(v4)
let i_3v3 = i(v1)
let i_2v4 = i(v5)
let i_g1 = i(v6)
let i_miller1= i(v10)
let i_g2 = i(v11)
let i_miller2= i(v12)
plot i_1v8 i_3v3
plot v(vdd)
plot vdd3v3
plot i_1v8
plot i_3v3
plot i_g1
plot i_miller1
plot i_g2
plot i_miller2
plot n1
plot n11
*show all
.endc
.end





.measure tran ipp1 PP i(v1) from=5u to=6u
.measure tran ipp2 PP i(v1) from=20u to=21u
.measure tran ipp3 PP i(v1) from=50u to=51u
.measure tran ipp4 PP i(v1) from=100u to=101u
.measure tran ipp5 PP i(v1) from=170u to=171u
.measure tran ipp6 PP i(v1) from=220u to=221u
.end


**** end user architecture code
**.ends

* expanding   symbol:  design/single_slope/opamp_singleslope_wcapnew.sym # of pins=6
** sym_path: /foss/design/single_slope/opamp_singleslope_wcapnew.sym
** sch_path: /foss/design/single_slope/opamp_singleslope_wcapnew.sch
.subckt opamp_singleslope_wcapnew  vdd iref vin- vin+ vout vss
*.iopin vdd
*.iopin vss
*.iopin vin+
*.iopin vin-
*.iopin vout
*.iopin iref
XM1 C vin- B vdd sky130_fd_pr__pfet_01v8 L=0.50 W=42 nf=6 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM2 net1 vin+ B vdd sky130_fd_pr__pfet_01v8 L=0.50 W=42 nf=6 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 C C vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM4 net1 C vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM5 B iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=10 m=10
XM6 iref iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM29 vout iref vdd vdd sky130_fd_pr__pfet_01v8 L=0.50 W=9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=20 m=20
XM30 vout net1 vss vss sky130_fd_pr__nfet_01v8 L=0.50 W=10 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=8 m=8
XC1 net1 vout sky130_fd_pr__cap_mim_m3_1 W=11 L=11 MF=16 m=16
.ends


* expanding   symbol:  design/single_slope/comparator_ss_h.sym # of pins=8
** sym_path: /foss/design/single_slope/comparator_ss_h.sym
** sch_path: /foss/design/single_slope/comparator_ss_h.sch
.subckt comparator_ss_h  vdd inp ck outp inn outn iref vss
*.iopin vdd
*.iopin vss
*.iopin ck
*.iopin inp
*.iopin inn
*.iopin outp
*.iopin outn
*.iopin iref
x2 vdd inp inn iref net1 net2 vss preamp_singleslope
x1 vdd ck outp outn net1 net2 vss latch_singleslope
.ends


* expanding   symbol:  design/single_slope/preamp_singleslope.sym # of pins=7
** sym_path: /foss/design/single_slope/preamp_singleslope.sym
** sch_path: /foss/design/single_slope/preamp_singleslope.sch
.subckt preamp_singleslope  vdd inp inn iref outp outn vss
*.iopin vdd
*.iopin vss
*.iopin iref
*.iopin inn
*.iopin inp
*.iopin outp
*.iopin outn
XM16 net1 iref vdd vdd sky130_fd_pr__pfet_01v8 L=5 W=27 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=10 m=10
XM17 outp C vss vss sky130_fd_pr__nfet_01v8 L=5 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM18 outn C vss vss sky130_fd_pr__nfet_01v8 L=5 W=50 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM21 iref iref vdd vdd sky130_fd_pr__pfet_01v8 L=5 W=27 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM1 outp inn net1 vdd sky130_fd_pr__pfet_01v8_lvt L=5 W=44 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=6 m=6
XM2 outn inp net1 vdd sky130_fd_pr__pfet_01v8_lvt L=5 W=44 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=6 m=6
XR1 C outp vss sky130_fd_pr__res_xhigh_po_0p35 L=7 mult=1 m=1
XR2 C outn vss sky130_fd_pr__res_xhigh_po_0p35 L=7 mult=1 m=1
.ends


* expanding   symbol:  design/single_slope/latch_singleslope.sym # of pins=7
** sym_path: /foss/design/single_slope/latch_singleslope.sym
** sch_path: /foss/design/single_slope/latch_singleslope.sch
.subckt latch_singleslope  vdd ck outp outn in1 in2 vss
*.iopin ck
*.iopin vdd
*.iopin vss
*.iopin outp
*.iopin outn
*.iopin in1
*.iopin in2
XM10 X ck vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM8 P ck vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM11 Y ck vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM9 Q ck vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM14 outp X vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM15 outp X vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM19 outn Y vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM20 outn Y vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 X Y vdd vdd sky130_fd_pr__pfet_01v8 L=0.9 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM6 Y X vdd vdd sky130_fd_pr__pfet_01v8 L=0.9 W=18 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 X Y P vss sky130_fd_pr__nfet_01v8 L=0.9 W=72 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y X Q vss sky130_fd_pr__nfet_01v8 L=0.9 W=72 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM7 P in1 vds_tail vss sky130_fd_pr__nfet_01v8 L=0.9 W=44 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM12 Q in2 vds_tail vss sky130_fd_pr__nfet_01v8 L=0.9 W=44 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM13 vds_tail ck vss vss sky130_fd_pr__nfet_01v8 L=0.9 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
